US05811389
A solution of 0.35 g of benzyl 5-aminomethyl-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate trifluoroacetate in 70 ml of acetonitrile was cooled to 0° and treated with 0.15 g of N-benzyloxycarbonyl-L-alanine. A total of 0.36 g of O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate and 0.17 g of sodium bicarbonate were added in several portions. The reaction mixture was stirred for a total of 36 hours and thereby warmed to room temperature, whereupon it was diluted with ice-water and extracted with methylene chloride. The organic phase was washed with water, dried over magnesium sulphate and concentrated. The residue was chromatographed several times over silica gel in chloroform/methanol, whereby 0.33 g of benzyl 5-[(N-benzyloxycarbonyl-L-alanyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate was obtained as a colourless foam; IR 1728, 1673, 1605, 1494 cm-1.

reactant | benzyl 5-aminomethyl-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate trifluoroacetate | 0.35 g | FC(C(=O)O)(F)F.NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)OCC1=CC=CC=C1
reactant | N-benzyloxycarbonyl-L-alanine | 0.15 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate | 0.36 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium bicarbonate | 0.17 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | benzyl 5-[(N-benzyloxycarbonyl-L-alanyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate | 0.33 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)OCC1=CC=CC=C1 | C38H40N2O8
